US07338960B2
{[2-Methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]pentyl}oxy)phenyl]oxy}acetic acid
Ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]pentyl}oxy)phenyl]oxy}acetate (138 mg, 0.28 mmol) was dissolved in THF (1.5 mL), water (0.5 mL) and aqueous NaOH (2M, 0.52 mL, 1.04 mmol) and the mixture stirred at 70° C. for 2 hours, cooled to rt and acidified to pH4 with aqueous hydrochloric acid (2M). The mixture was then partitioned between EtOAc and water, the layers separated and the organic layer washed with brine, dried (Na2SO4) and concentrated to give the title compound as a colourless gum (130 mg).

reactant | Ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]pentyl}oxy)phenyl]oxy}acetate | 0.28 mmol, 138 mg | CC1=C(C=CC(=C1)OC(CCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C29H31F3O4
reactant | water | 0.5 mL | O | H2O
reactant | NaOH | 1.04 mmol, 2M, 0.52 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | {[2-Methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]pentyl}oxy)phenyl]oxy}acetic acid | 130 mg | CC1=C(C=CC(=C1)OC(CCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)O | C27H27F3O4
